US04163846
(a) Benzaldehyde N-methyl-N-(2,2-dicyano-1-methylmercaptoethenyl) hydrazone (VII)
Methyl hydrazine (4.2 g) was added slowly to benzaldehyde (9.4 ml) in 2-methoxyethanol (15 ml) causing the solution to boil. The solution was heated under reflux for 20 minutes and was then added to a solution of bis(methylmercapto)methylenemalononitrile (15.6 g) in 2-methoxyethanol (75 ml). The solution was heated under reflux for 6 hours and was then cooled to 0° C. to precipitate benzaldehyde N-methyl-N-(2,2-dicyano-1-methylmercaptoethenyl) hydrazone (5.6 g), m.p. 159°-160° C.

reactant | Methyl hydrazine | 4.2 g | CNN | CH6N2
reactant | benzaldehyde | 9.4 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | bis(methylmercapto)methylenemalononitrile | 15.6 g | CSC(SC)=C(C#N)C#N | C6H6N2S2
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
solvent | 2-methoxyethanol | 75 ml | COCCO | C3H8O2
product | Benzaldehyde N-methyl-N-(2,2-dicyano-1-methylmercaptoethenyl) hydrazone | CN(N=CC1=CC=CC=C1)C(=C(C#N)C#N)SC | C13H12N4S
